US05118441
Step vi) Production of 2,3-dicyano-4-octyloxyphenyl 5-dodecylthiophene-2-carboxylate
0.50 g (1.69 mM) of 5-dodecylthiophene-2-carboxylic acid (M.W.: 296), 0.46 g (1.69 mM) of 2,3-dicyanohydroquinone monooctyl ether (M.W.: 272) and 20 ml of THF were mixed and stirred. To the mixture, 0.35 g (1.69 mM) of dicyclohexylcarbodiimide (M.W.: 206) and 0.05 g of pyrrolidinopyridine were added, followed by stirring overnight at room temperature. After the reaction, the reaction mixture was subjected to filtration and the filtrate was subjected to distillation to obtain a crude product. The crude product was purified by silica gel column chromatography with the use of benzene and recrystallized from ethanol to obtain 0.54 g of an objective product (yield: 58.1%).

reactant | 5-dodecylthiophene-2-carboxylic acid | 1.69 mM, 0.50 g | C(CCCCCCCCCCC)C1=CC=C(S1)C(=O)O | C17H28O2S
reactant | 2,3-dicyanohydroquinone monooctyl ether | 1.69 mM, 0.46 g | C(CCCCCCC)OC1=C(C(=C(O)C=C1)C#N)C#N | C16H20N2O2
reactant | dicyclohexylcarbodiimide | 1.69 mM, 0.35 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | pyrrolidinopyridine | 0.05 g | N1(CCCC1)C1=NC=CC=C1 | C9H12N2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2,3-dicyano-4-octyloxyphenyl 5-dodecylthiophene-2-carboxylate | 0.54 g, yield: 58.1% | C(CCCCCCCCCCC)C1=CC=C(S1)C(=O)OC1=C(C(=C(C=C1)OCCCCCCCC)C#N)C#N | C33H46N2O3S
